Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right traumatic ___
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old male on Coumadin for Afib s/p
fall while intoxicated on ___. The patient was taken to 
___ where he was noted to have a right traumatic SAH and 
was
transferred to ___ for further evaluation. His INR at the OSH
was 2.2. FFP was unavailable therefore he was given Vitamin K,
and he received KCentra upon arrival to ___. He underwent
repair of a right scalp laceration with staples prior to 
transfer
to ___. Neurosurgery was consulted for further evaluation and
recommendations. On exam the patient denied chest pain, SOB,
fevers, or chills. He did endorse occasional weakness and
frequent falls. 

 
Past Medical History:
HTN, AFIB, HLD
 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
UPON DISCHARGE:
Alert and oriented x3
PERRL 
Face symmetric 
MAE ___ 
No pronator drift 

 
Pertinent Results:
CT HEAD W/O CONTRAST Study Date of ___ 12:51 AM 
IMPRESSION:  
1. Right sided subarachnoid hemorrhage involving the sylvian
fissure and extending into the right frontal and temporal lobes.
Comparison with recent prior examination would be helpful in
determining interval change. 

___ CXR
Minimally displaced fracture of the right posterior fifth rib.  
Chest 
radiograph is not sensitive for detection of nondisplaced rib 
fractures. 
Minimal bibasilar atelectasis. 

___ R ankle xray 
  
AP, lateral, oblique views of the right ankle were provided. 
There is no acute fracture or dislocation. Mortise is symmetric. 
Talar dome is smooth. Base of fifth metatarsal appears intact.  
A small retro calcaneal enthesophytes noted. 
Soft tissues are unremarkable. No significant degenerative 
disease. 

 
Brief Hospital Course:
Overnight on ___, the patient was transferred from ___ s/p 
fall while intoxicated sustaining a right tSAH. He was admitted 
to the floor. His repeat NCHCT was performed in the ED and was 
grossly stable, no new hemorrhage. Throughout the day the 
patient's neurological exam remained stable. Repeat CT head was 
stable. He received a second dose of vitamin K. 

On ___ Patient was neurologically stable. He received his third 
dose of vitamin K. A trauma consult was called to evaluate for 
other injury given fall secondary to patient complaint of R 
flank pain. A CXR and R ankle xray were completed which revealed 
minimally displaced fracture of the right posterior fifth rib 
and no acute fracture of the ankle.

On ___, the patient remained neurologically and hemodynamically 
stable.  He was evaluated by physical therapy who recommended 
outpatient ___.  He was discharged home in stable condition with 
instructions to restart Coumadin in 10 days and continue keppra 
for 7 days. 
 
Medications on Admission:
Metoprolol Succinate XL 200mg PO
daily, Warfarin 1mg PO daily, Simvastatin 20mg PO daily. 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN Pain/ elevated temp 
2. LeVETiracetam 500 mg PO BID Duration: 7 Days 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*10 Tablet Refills:*0
3. Metoprolol Succinate XL 200 mg PO DAILY 
4. Simvastatin 20 mg PO QPM 
5. Outpatient Physical Therapy
Please evaluate and treat 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right traumatic SAH 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity
• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
• You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
• No driving while taking any narcotic or sedating medication. 
• If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
• No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
It is safe to resume your home Coumadin 10 days after your fall 
on ___.
You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time.  You will need to take with for a total of 7 days. 
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
• You may have difficulty paying attention, concentrating, and 
remembering new information.
• Emotional and/or behavioral difficulties are common. 
• Feeling more tired, restlessness, irritability, and mood 
swings are also common.
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
• Headache is one of the most common symptom after a brain 
bleed. 
• Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
• Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
• There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
• Fever greater than 101.5 degrees Fahrenheit
• Nausea and/or vomiting
• Extreme sleepiness and not being able to stay awake
• Severe headaches not relieved by pain relievers
• Seizures
• Any new problems with your vision or ability to speak
• Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
• Sudden numbness or weakness in the face, arm, or leg
• Sudden confusion or trouble speaking or understanding
• Sudden trouble walking, dizziness, or loss of balance or 
coordination
• Sudden severe headaches with no known reason

 
Followup Instructions:
___